US07638515B2
2-Fluoro-3-methoxybenzyl chloride
24.79 g (158.75 mmol) of 2-fluoro-3-methoxybenzyl alcohol is dissolved in 35 ml of dichloromethane. While being cooled slightly, 58.4 ml of thionyl chloride is added in drops, and the batch is then stirred overnight at room temperature. The reaction mixture is spun in until a dry state is reached, the residue is dissolved in methyl tert-butyl ether, and it is shaken twice with semi-saturated potassium carbonate solution. The aqueous phase is extracted once with methyl tert-butyl ether. The combined organic extracts are worked up as usual. The residue that is obtained is incorporated in crude form into the next stage.

reactant | 2-fluoro-3-methoxybenzyl alcohol | 158.75 mmol, 24.79 g | FC1=C(CO)C=CC=C1OC | C8H9FO2
reactant | thionyl chloride | 58.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
product | 2-Fluoro-3-methoxybenzyl chloride | FC1=C(CCl)C=CC=C1OC | C8H8ClFO
